US06809108B1
Synthesis of (2R) 1-{(2S,4S)-4-azido-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide
To a solution of 33 mg of (2R)-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide in 1 ml of N,N-dimethylformamide, 8.3 mg of sodium azide was added at room temperature, followed by 10 hours' stirring at 85° C. under heating. The reaction liquid was diluted with ethyl acetate, washed with water and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resultant residue was purified by means of a preparative thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=100/10/1) to provide 25 mg of the title compound.

reactant | (2R)-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 33 mg | C1(CCCCC1)CN1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C45H58N4O6S
reactant | sodium azide | 8.3 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{(2S,4S)-4-azido-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 25 mg | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1C(CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C44H55N7O3
